US07435751B2
Step 4: Preparation of 5-amino-1-ethyl-7-fluoro-1,3-dihydro-indol-2-one
Iron powder (3.84 g, 68.7 mmol) is added in small portions to 1-ethyl-7-fluoro-5-nitro-1,3-dihydro-indol-2-one (3.85 g, 17.2 mmol) and ammonium chloride (8.94 g, 171 mmol) in ethanol (150 ml) and water (75 ml) at 90° C. The reaction mixture is stirred vigorously and heated for 30 min, cooled to room temperature, and diluted with dichloromethane (600 ml). The mixture is filtered through celite, the organic layer separated and washed with water and brine, dried over sodium sulfate and evaporated to give the title compound as a yellow solid. HPLC r.t. 2.60 min; MS for C10H11FN2O m/z 195.0 (M+H)+.

reactant | 1-ethyl-7-fluoro-5-nitro-1,3-dihydro-indol-2-one | 17.2 mmol, 3.85 g | C(C)N1C(CC2=CC(=CC(=C12)F)[N+](=O)[O-])=O | C10H9FN2O3
reactant | ammonium chloride | 171 mmol, 8.94 g | [Cl-].[NH4+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 75 ml | O | H2O
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
catalyst | Iron | 68.7 mmol, 3.84 g | [Fe] | Fe
product | 5-amino-1-ethyl-7-fluoro-1,3-dihydro-indol-2-one | NC=1C=C2CC(N(C2=C(C1)F)CC)=O | C10H11FN2O
